US09238640B2
To a solution of 4-(2-hydroxy-ethoxy)-3-methylbenzaldehyde (1.46 g, 8.08 mmol) and 2-amino-4,6-dimethoxybenzamide (1.58 g, 8.08 mmol) in N,N-dimethylacetamide (20 mL) were added NaHSO3 (58.5 wt %, 2.20 g, 12.12 mmol) and p-toluenesulfonic acid monohydrate (0.38 g, 2.02 mmol). The reaction mixture was stirred at 110° C. for 16 hours, then cooled to room temperature. N,N-dimethylacetamide was removed under reduced pressure. The residue was triturated with water (50 mL). The resulting slurry was filtered and solid was washed with water, ether, and hexanes to obtain 2-[4-(2-hydroxy-ethoxy)-3-methyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one as a beige solid. Yield: 2.75 g (95%).

reactant | 4-(2-hydroxy-ethoxy)-3-methylbenzaldehyde | 8.08 mmol, 1.46 g | OCCOC1=C(C=C(C=O)C=C1)C | C10H12O3
reactant | 2-amino-4,6-dimethoxybenzamide | 8.08 mmol, 1.58 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | NaHSO3 | 12.12 mmol, 2.20 g | OS(=O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 2.02 mmol, 0.38 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 2-[4-(2-hydroxy-ethoxy)-3-methyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | OCCOC1=C(C=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C19H20N2O5
